US07902367B2
Step 5a) 1-(tert-Butoxycarbonyl)-3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidine
1-(tert-Butoxycarbonyl)piperidin-3-ylmethanol (215 mg, 1.00 mmol) was dissolved in tetrahydrofuran (5 mL). While this solution was chilled in an ice bath, 60% sodium hydride in oil (44.0 mg, 1.10 mmol) was added and the mixture was stirred for 20 min. Subsequently, 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole (258 mg, 1.00 mmol) in tetrahydrofuran (5 mL) and sodium iodide (15.0 mg, 0.100 mmol) were added. The mixture was stirred for 2 hours while chilled in an ice bath and was further stirred for 6 hours at room temperature. Subsequently, ethyl acetate was added and the mixture washed sequentially with 5% aqueous citric acid and brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=20:1->5:1) gave 258 mg (59%) of the desired compound as a colorless oil.

reactant | 1-(tert-Butoxycarbonyl)piperidin-3-ylmethanol | 1.00 mmol, 215 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole | 1.00 mmol, 258 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C11H9Cl2NS
reactant | sodium iodide | 0.100 mmol, 15.0 mg | [I-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(tert-Butoxycarbonyl)-3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidine | 258 mg, 59% | C(C)(C)(C)OC(=O)N1CC(CCC1)COCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C22H29ClN2O3S
